US03947416
Preparation of 3-Azaisatoic Anhydride
A 100 ml. flask was charged with 2.0 g. 2-carbamylnicotinic acid* suspended in 20 ml. dimethylformamide. A 5.5 g. portion of lead tetra-acetate was added to the suspension, and the mixture was stirred at 50°-60° for 1 hour. The reaction mixture was poured into 20 ml. water; solids were separated by filtration, and 3-azaisatoic anhydride was recrystallized from dioxane, and dried in vacuo for 2 hours. The final yield of 3-azaisatoic anhydride amounted to 1.48 g., melting point 217°-219°, and represented 75 percent of theory. The structure was confirmed by elemental analysis and infrared spectroscopy.

reactant | 2-carbamylnicotinic acid | C(N)(=O)C1=C(C(=O)O)C=CC=N1 | C7H6N2O3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | lead tetra-acetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | water | O | H2O
product | 3-Azaisatoic Anhydride | C1=2C(=O)OC(NC1=NC=CC2)=O | C7H4N2O3
